US05519016
In 110 ml of ethanol was dissolved 3.9 g (0.0125 mole) of 4- (4,6-dimethoxy-2-pyrimidinyl)- 1-benzylpiperazine obtained as described above, and 2.5 g of 5% palladium carbon was added thereto. While refluxing the mixture under heating, hydrogen gas was passed for 6 hours. The reaction mixture was cooled to room temperature and then filtered. The filtrate was concentrated under reduced pressure, and the residue was applied to silica gel column chromatography (the eluent used was a mixture of chloroform: methanol = 9 : 1) to obtain 1.38 g of 1-(4,6-dimethoxy-2-pyrimidinyl)piperazine as pale red crystals.

reactant | 4- (4,6-dimethoxy-2-pyrimidinyl)- 1-benzylpiperazine | 0.0125 mole, 3.9 g | COC1=NC(=NC(=C1)OC)N1CCN(CC1)CC1=CC=CC=C1 | C17H22N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 110 ml | C(C)O | C2H6O
catalyst | palladium carbon | 2.5 g | [C].[Pd]
product | 1-(4,6-dimethoxy-2-pyrimidinyl)piperazine | 1.38 g | COC1=NC(=NC(=C1)OC)N1CCNCC1 | C10H16N4O2
